US03961055
2-Tetrahydropyranyloxy-6-dimethylsulphamoyl-10-(3-chloropropyl)phenothiazine m.p. 150°-152°C.;
15.7 g.) is prepared by reacting dihydropyran (102 g.) with 2-hydroxy-6-dimethylsulphamoyl-10-(3-chloropropyl)-phenothiazine (17.2 g.) in the presence of an 8N solution of hydrogen chloride in ethanol (0.1 cc.).

reactant | dihydropyran | 102 g | O1CCCC=C1 | C5H8O
reactant | 2-hydroxy-6-dimethylsulphamoyl-10-(3-chloropropyl)-phenothiazine | 17.2 g | OC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O)CCCCl | C17H19ClN2O3S2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 0.1 cc | C(C)O | C2H6O
product | 2-Tetrahydropyranyloxy-6-dimethylsulphamoyl-10-(3-chloropropyl)phenothiazine | O1C(CCCC1)OC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O)CCCCl | C22H27ClN2O4S2
